US04456757
In 30 ml of chloroform were added 1.42 g of 1-isobutylpiperazine and 2.76 g of potassium carbonate, and to the mixture was added dropwise 50 ml of a chloroform solution containing 2.28 g of 5-isoquinolinesulfonyl chloride under cooling with ice. After the dropwise addition of the chloroform solution, the mixed solution thus obtained was stirred at a temperature of 15° C. to 25° C. for two hours, and then the reaction solution was washed with 20 ml of a 1N aqueous sodium hydroxide solution and extracted twice with a 5N aqueous hydrochloric acid solution. The aqueous hydrochloric acid layer was rendered alkaline, extracted three time with 30 ml of chloroform, and the chloroform layer extracted was washed with water and dried with anhydrous magnesium sulfate. After the chloroform was distilled therefrom under reduced pressure, the residue obtained was subjected to a silica gel column chromatography (silica gel: 100 g; solvent: 2% methanol-chloroform) to give 2.60 g of 1-(5-isoquinolinesulfonyl)-4-isobutylpiperazine, i.e., Compound (47) in a yield of 78%.

reactant | 1-isobutylpiperazine | 1.42 g | C(C(C)C)N1CCNCC1 | C8H18N2
reactant | potassium carbonate | 2.76 g | C([O-])([O-])=O.[K+].[K+]
reactant | 5-isoquinolinesulfonyl chloride | 2.28 g | C1=NC=CC=2C(=CC=CC12)S(=O)(=O)Cl | C9H6ClNO2S
reactant | methanol chloroform | CO.C(Cl)(Cl)Cl
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(5-isoquinolinesulfonyl)-4-isobutylpiperazine | 2.60 g, yield of 78% | C1=NC=CC=2C(=CC=CC12)S(=O)(=O)N1CCN(CC1)CC(C)C | C17H23N3O2S
